US07820825B2
A solution of 3-(dimethylamino)pyrrolidine (2.5 g, 22 mmol) in acetonitrile is added to an ice cold solution of 4-(chloromethyl)benzoyl chloride (5.0 g, 26 mmol) in acetonitrile, stirred while warming to room temperature for 2 hours then concentrated in vacuo. The resultant residue is suspended in ether and filtered to give 1-(4-chloromethylbenzoyl)-3-(N,N-dimethylamino)pyrrolidine hydrochloride as a white solid identified by NMR and MS [267 m/e (M+H)].

reactant | 3-(dimethylamino)pyrrolidine | 22 mmol, 2.5 g | CN(C1CNCC1)C | C6H14N2
reactant | 4-(chloromethyl)benzoyl chloride | 26 mmol, 5.0 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(4-chloromethylbenzoyl)-3-(N,N-dimethylamino)pyrrolidine hydrochloride | Cl.ClCC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | InChI=1S/C14H19ClN2O.ClH/c1-16(2)13-7-8-17(10-13)14(18)12-5-3-11(9-15)4-6-12;/h3-6,13H,7-10H2,1-2H3;1H
